US05945440
950 mg (2.1 mmol) (±)-12-(3-dimethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-6,13-dimethyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole are heated under reflux for 16 hours in 150 ml 15% methanolic potassium hydroxide solution. The solution is evaporated to one half, mixed with 100 ml of water and weakly acidified with semi-concentrated hydrochloric acid. The precipitate obtained is filtered off, stirred with 50 ml 5% sodium hydrogen carbonate solution, again filtered and dried. (±)-12-(3-Dimethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-13-methyl-5,7-dioxo-indolo[2,3-a]furano[3,4-c]carbazole is obtained in the form of a yellow amorphous powder.

reactant | (±)-12-(3-dimethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-6,13-dimethyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole | 2.1 mmol, 950 mg | CN(CC(CN1C2=CC=CC=C2C=2C3=C(C4=C(C12)N(C=1C=CC=CC14)C)C(N(C3=O)C)=O)O)C | C27H26N4O3
reactant | potassium hydroxide | 150 ml | [OH-].[K+]
product | (±)-12-(3-Dimethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-13-methyl-5,7-dioxo-indolo[2,3-a]furano[3,4-c]carbazole | CN(CC(CN1C2=CC=CC=C2C=2C3=C(C4=C(C12)N(C=1C=CC=CC14)C)C(OC3=O)=O)O)C | C26H23N3O4
